data/mechanism_extracts/GreenChem/10.1039_D1GC02914B.json
{"doi": "10.1039_D1GC02914B", "journal": "GreenChem", "is_review": false, "rxn_class_summary": "Electrochemical oxidative radical cascade cyclization of olefinic amides with thiophenols/diselenides to synthesize sulfurated/selenylated benzoxazines, oxazolines, and iminoisobenzofurans without a metal catalyst or external oxidant", "mechanism_family": ["radical_anodic", "paired_electrolysis"], "electrochemical_role": "Anodic single-electron oxidation of thiophenol generates a sulfur radical (which dimerizes reversibly to disulfide); cathodic reduction of the disulfide back to thiyl radical/thiolate closes the loop, with cathodic proton reduction to H2", "key_intermediates": [{"name": "sulfur (thiyl) radical RS•", "smiles": "[S]c1ccc(C)cc1", "role": "reactive"}, {"name": "diaryl disulfide RS-SR", "smiles": "Cc1ccc(SSc2ccc(C)cc2)cc1", "role": "resting_state"}, {"name": "disulfide radical anion [RS-SR]•-", "smiles": null, "role": "transient"}, {"name": "alkyl radical INT-I (C-radical after thiyl addition to alkene, cyclized onto amide oxygen pending)", "smiles": null, "role": "reactive"}, {"name": "cyclized carbocation INT-II (after radical cyclization and anodic oxidation)", "smiles": null, "role": "reactive"}, {"name": "benzoxazine product 3a", "smiles": null, "role": "reactive"}], "electron_flow": "At the anode, thiophenol is oxidized by SET to a thiyl radical (RS•) which reversibly dimerizes to RS-SR; the disulfide is reduced at the cathode to a radical anion that fragments to RS• + RS−, regenerating thiyl radicals. RS• adds to the C=C of the olefinic amide to give alkyl radical INT-I, which undergoes intramolecular cyclization onto the amide oxygen and a second anodic SET oxidation to cation INT-II, followed by deprotonation to the heterocyclic product; protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO/radical trap control (radical pathway probe, short-time reaction)", "smiles": null, "purpose": "radical_trap", "observation": "Stopping reaction at 1.5 h gave product 3a in 10% yield and disulfide in 80% yield, supporting thiyl radical intermediacy"}, {"name": "Disulfide 2q as substrate", "smiles": null, "purpose": "intermediate_trap", "observation": "Reaction of disulfide 2q with N-(2-(prop-1-en-2-yl)phenyl)benzamide 1a gave 3a in 73% yield, confirming disulfide as a competent intermediate"}, {"name": "Cyclic voltammetry of 1a and 4-chlorobenzenethiol 2e", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation peaks: 1a at 1.80 V, 2e at 1.51 V — thiol is preferentially oxidized at the anode; reduction peak of diphenyl disulfide at −1.14 V indicates cathodic reduction of disulfide"}], "evidence_types_used": ["intermediate_trap_other", "stoichiometric_intermediate", "cyclic_voltammetry", "isolation_of_intermediate"], "evidence_strength": "medium", "notes": "Mechanism is paired: anodic oxidation of thiol initiates the radical, while cathodic reduction of disulfide regenerates thiyl radical and produces H2. Authors also performed derivatizations (mCPBA oxidation to sulfoxide/sulfone, HCl hydrolysis of iminoisobenzofuran and oxazoline) which are downstream functionalizations, not mechanistic probes."}
